US06610688B2
A mixture of 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (398.8 mg, 2.4 mmol) and 3-chloro-4-fluoro-phenylamine (378 mg, 2.6 mmol) in DMF (6 mL) was stirred at room temperature for 2 minutes. To it was added silver triflate (672 mg, 2.6 mmol), the mixture was then stirred at 90° C. for 2 hours. The reaction was then diluted with ethyl acetate and filtered off the precipitate, washing the precipitate with 10% ammonia solution. The filtrate was extracted with ethyl acetate, dried and concentrated. The residue was triturated with ethyl acetate and filtered to give 549.1 mg (83%) of (3-chloro-4-fluoro-phenyl)-(7-methyl-7H-pyrrolo(2,3-d]pyrimidin-4-yl)-amine as an off-white solid. 1H NMR (300 MHz, DMSO-d6) 9.48 (s, 1H, NH), 8.35 (s, 1H), 8.29 (dd, J=2.7 & 6.8Hz, 1H), 7.75-7.80 (m, 1H), 7.37 (t, J=9.3 Hz, 1H), 7.30 (d, J=3.1 Hz, 1H), 6.77 (d, J=3.1 Hz, 1H), 3.75. (s, 3H, CH3). MS 277 [M++1].

reactant | 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 2.4 mmol, 398.8 mg | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
reactant | 3-chloro-4-fluoro-phenylamine | 2.6 mmol, 378 mg | ClC=1C=C(C=CC1F)N | C6H5ClFN
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver triflate | 2.6 mmol, 672 mg | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | (3-chloro-4-fluoro-phenyl)-(7-methyl-7H-pyrrolo(2,3-d]pyrimidin-4-yl)-amine | 549.1 mg, 83% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C=C2)C | C13H10ClFN4
